### PR TITLE
[Merged by Bors] - chore(Combinatorics/SimpleGraph/Operations): golf `edge` lemmas

### PR DESCRIPTION
**Pull request by SnirBroshi**
Also tags `Subgraph.Adj.adj_sub`/`spanningCoe_adj`/`sup_adj`/`edge_adj` with `grind`.

---
- `adj_edge`: 175ms to 50ms 🎉
- `edge_le_iff`: 75ms to 35ms 🎉
- `sup_edge_of_adj`: ? to 15ms (`trace.profiler` doesn't show anything for the old proof, maybe it's below 1ms?)
- `disjoint_edge`: unchanged
- `Subgraph.spanningCoe_sup_edge_le`: 70ms to 40ms 🎉
- `edgeFinset_sup_edge`: 15ms to 25ms

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 1]
```diff
@@ -207,11 +203,7 @@ theorem sSup_edge_eq : sSup { edge u v | (u : V) (v : V) (_ : G.Adj u v) } = G :
 theorem Subgraph.spanningCoe_sup_edge_le {H : Subgraph (G ⊔ edge s t)} (h : ¬ H.Adj s t) :
     H.spanningCoe ≤ G := by
   intro v w hvw
-  have := hvw.adj_sub
-  simp only [Subgraph.spanningCoe_adj, SimpleGraph.sup_adj, SimpleGraph.edge_adj] at *
-  by_cases hs : s(v, w) = s(s, t)
-  · exact (h ((Subgraph.adj_congr_of_sym2 hs).mp hvw)).elim
-  · aesop
+  grind [hvw.adj_sub, H.spanningCoe_adj, G.sup_adj, SimpleGraph.edge_adj, adj_congr_of_sym2]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean]: Perhaps `hvw.adj_sub, H.spanningCoe_adj, G.sup_adj, SimpleGraph.edge_adj` could each be tagged grind? that can be a follow-up PR, if you'd like.

**Review by b-mehta — COMMENTED** [review]
Nice, thanks!

bors d+

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
